US06072067
A double-walled reactor having a volume of 1 L, provided with baffles, condenser, top stirrer, thermometer and dropping funnel, was charged with 430 g (5.4 mol) of clear 50% strength NaOH. Then 23 g of Aliquat 336 (57 mmol) and 27 g (0.41 mol) of freshly cracked cyclopentadiene were added. The reaction mixture was stirred vigorously for a few minutes, then 150 g of 3-pentyl bromide (1.0 mol) were added over a period of one hour, while the reaction mixture was cooled with circulating water at 10° C. After one hour of stirring at room temperature, the reaction mixture was heated to 70° C., followed by a further three hours of stirring. Stirring was stopped and phase separation was performed. The aqueous layer was drawn off and 540 g (6.70 mol) of fresh 50% strength NaOH were added, followed by a further 4 hours of stirring at 70° C. GC was used to show that the mixture consisted of di- and tri(3-pentyl)cyclopentadiene in a ratio of approximately 3:2, respectively. The products were distilled at 0.2 mbar, 51° C. and 0.2 mbar, 77-80° C., respectively. After distillation, 32 g of di- and 18 g of tri(3-pentyl)cyclopentadiene were obtained, which were characterized with GC, GC-MS, 13C- and 1H-NMR.

reactant | NaOH | [OH-].[Na+]
reactant | cyclopentadiene | C1=CC=CC1 | C5H6
reactant | 3-pentyl bromide | 1.0 mol, 150 g | CCC(CC)Br | C5H11Br
catalyst | Aliquat 336 | 57 mmol, 23 g | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | water | O | H2O
product | tri(3-pentyl)cyclopentadiene | 18 g | CCC(CC)C=1C(=C(CC1)C(CC)CC)C(CC)CC | C20H36
